US07176242B2
Dimethylamine hydrochloride (4.78 g, 58.6 mmol) was added to a solution of 4-cyano-2-bromomethylpyridine (3.95 g, 19.5 mmol) and triethylamine (13.58 mL, 97.7 mmol) in acetone (40 mL). The reaction mixture was stirred overnight at room temperature in a sealed tube. The reaction mixture was concentrated under reduced pressure and partitioned between methylene chloride and saturated sodium bicarbonate. The organic layer was separated and washed with water, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 99:1 methylene chloride/methanol) gave the desired 4-cyano-2-(dimethylamino)methylpyridine (2.10 g): 1H NMR (300 MHz, CDCl3) δ 8.73 (d, J=5.0 Hz, 1H), 7.71 (s, 1H), 7.41 (dd, J=5.0, 1.2 Hz, 1H), 3.65 (s, 2H), 2.31 (s, 6H); ESI MS m/z 162 [M+H]+.

reactant | Dimethylamine hydrochloride | 58.6 mmol, 4.78 g | Cl.CNC
reactant | 4-cyano-2-bromomethylpyridine | 19.5 mmol, 3.95 g | C(#N)C1=CC(=NC=C1)CBr | C7H5BrN2
reactant | triethylamine | 97.7 mmol, 13.58 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 4-cyano-2-(dimethylamino)methylpyridine | 2.10 g | C(#N)C1=CC(=NC=C1)CN(C)C | C9H11N3
